US05614519
4'-[[2-n-Propyl-4-methyl-6-(imidazo[2,1-b]thiazol-6-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.-butyl 4'-[[2-n-propyl-4-methyl-6-(imidazo[2,1-b]thiazol-6-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.-butyl 4'-[[2-n-propyl-4-methyl-6-(imidazo[2,1-b]thiazol-6-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylate | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2C)C=2N=C1SC=CN1C2 | C34H34N4O2S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[[2-n-Propyl-4-methyl-6-(imidazo[2,1-b]thiazol-6-yl)-benzimidazol-1-yl]-methyl]-biphenyl-2-carboxylic acid | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2C)C=2N=C1SC=CN1C2 | C30H26N4O2S
